US07968581B2
Step 7: 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-(3-methylphenyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile
To a solution of 856 mg of 4-[2,5-dioxo-3-methyl-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile in DCM (5 mL) is added trifluoroborane-dimethylsulfide complex (812 μL). The mixture is stirred 4 hours at rt, diluted with DCM, washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate, concentrated and purified on silica gel (ethyl acetate/cyclohexane 0/100 to 50/50) to give the desired compound.

reactant | 4-[2,5-dioxo-3-methyl-4-(3-methylphenyl)-4-[(2-propenyloxy)methyl]imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | 856 mg | O=C1N(C(C(N1C)(COCC=C)C1=CC(=CC=C1)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C23H20F3N3O3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[2,5-Dioxo-4-hydroxymethyl-3-methyl-4-(3-methylphenyl)imidazolidin-1-yl]-2-trifluoromethylbenzonitrile | O=C1N(C(C(N1C)(C1=CC(=CC=C1)C)CO)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F | C20H16F3N3O3
